US08791255B2
The product is prepared according to the procedure described in example 5, using 300 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 272 mg of 4-fluoro-3-iodoaniline. 309 mg of N-(4-fluoro-3-iodophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 300 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 4-fluoro-3-iodoaniline | 272 mg | FC1=C(C=C(N)C=C1)I | C6H5FIN
product | N-(4-fluoro-3-iodophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 309 mg | FC1=C(C=C(C=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O)I | C16H16FIN4O3
